US07855294B2
1) Benzyl (3RS,4RS)-3-hydroxy-4-o-tolyl-piperidine-1-carboxylate
227 mg of (3RS,4RS)-3-hydroxy-4-o-tolyl-piperidine hydrochloride obtained in Production Example 12 was dissolved in 45 mL of dioxane/water (4:5) mixture, and 405 mg of triethylamine and 269 mg of benzyl chloroformate were added thereto and stirred at room temperature for 4 hours. Aqueous sodium hydrogencarbonate solution was added to the reaction liquid, and extracted with ethyl acetate. The ethyl acetate layer was dried with magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain 253.2 mg of the entitled compound as a pale yellow oily substance.

reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 269 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dioxane water | 45 mL | O1CCOCC1.O
product | Benzyl (3RS,4RS)-3-hydroxy-4-o-tolyl-piperidine-1-carboxylate | 253.2 mg | OC1CN(CCC1C1=C(C=CC=C1)C)C(=O)OCC1=CC=CC=C1 | C20H23NO3
